US04034107
A stirred mixture of 1-(3-methoxycarbonyl-2-thioureido)-2-nitro-4-thiocyanatobenzene (27.0 g.), ferrous chloride tetrahydrate (5.85 g.), methanol (450 ml.) and water (100 ml.) was brought to reflux and treated with reduced iron powder (29.7 g.) portionwise during 5 minutes. The mixture was heated at reflux for one hour, methanol (250 ml.) was added, and the boiling solution was filtered hot. The filtrate was evaporated to dryness and the residue was extracted with boiling methanol (3× 500 ml.). The extract was evaporated and the residue was recrystalised from methyl ethyl ketone (removing some undissolved material by filtration of the hot solution) to give 2-amino-1-(3-methoxycarbonyl-2-thioureido)-4-thiocyanatobenzene (6.5 g.), m.p. 174°-176° C. (with decomposition).

reactant | 1-(3-methoxycarbonyl-2-thioureido)-2-nitro-4-thiocyanatobenzene | 27.0 g | COC(=O)NC(NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-])=S | C10H8N4O4S2
reactant | water | 100 ml | O | H2O
solvent | methanol | 250 ml | CO | CH4O
solvent | methanol | 450 ml | CO | CH4O
product | 2-amino-1-(3-methoxycarbonyl-2-thioureido)-4-thiocyanatobenzene | 6.5 g | NC1=C(C=CC(=C1)SC#N)NC(=S)NC(=O)OC | C10H10N4O2S2
